US08431695B2
Preparation of 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(8-methylocta-hydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
In a manner similar to the procedure described for the preparation of Example 103 and using 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine and iodomethane as the starting materials, 18 mg (27%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) 7.91 (s, 1 H), 7.75 (d, 1 H), 7.52 (s, 1 H), 7.34-7.19 (m, 5 H), 7.06 (dd, 1H), 6.72 (s, 1H), 5.63 (s, 2H), 5.14-5.10 (m, 1H), 3.73 (dd, 1H), 3.37-3.30 (m, 1H), 2.93 (dd; 1H), 2.75-2.63 (m, 4H), 2.61 (s, 3H), 2.41 (t, 1H), 2.25-2.06 (m, 3H), 1.57 (s, 3H); LC-MS [M+H]+=509, RT=0.28 min.

reactant | 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(octahydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1C)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CNCC1 | C28H30N8O
reactant | iodomethane | IC | CH3I
product | 5-(2-benzyl-3-methyl-2H-indazol-6-yl)-7-(8-methylocta-hydropyrazino[2,1-c][1,4]oxazin-3-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 18 mg, 27% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1C)C=1C=C(N2N=CN=C(C21)N)C2CN1C(CO2)CN(CC1)C | C29H32N8O
